US04173633
The starting material is prepared as follows: 5.8 g of hydroxylamine hydrochloride are added to the mixture of 15 g of 1-(2-oxopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]-azepin-2-one, 6.2 g of powdered potassium carbonate, 120 ml of methanol and 10 ml of water. It is refluxed for three hours and stirred at room temperature overnight. The suspension is evaporated, the residue is suspended in 200 ml of chloroform-water (3:1) and filtered off, to yield the 1-(2-hydroxyiminopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one melting at 216°-218°.

reactant | hydroxylamine hydrochloride | 5.8 g | Cl.NO
reactant | 1-(2-oxopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]-azepin-2-one | 15 g | O=C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C18H21NO3
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 120 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 1-(2-hydroxyiminopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one | ON=C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C18H22N2O3
